US07427683B2
a) 1-(5-Fluoro-2-nitro-phenyl)-piperidine
To a solution of 2,4-difluoronitrobenzene (2.09 g, 13.1 mmol) in EtOH (10 mL) at ambient temperature was added piperidine (3.35 g, 39.4 mmol) dropwise. The reaction was allowed to stir overnight and concentrated in vacuo. The residue was dissolved in EtOAc (100 mL), washed with water (2×100 mL), dried (Na2SO4) and concentrated in vacuo. Purification by silica gel column chromatography afforded 1.10 (37%) of the title compound as an oil. Mass spectrum (ESI, m/z): Calcd. for C11H13FN2O2, 225.1 (M+H), found 225.1.

reactant | 2,4-difluoronitrobenzene | 13.1 mmol, 2.09 g | FC1=C(C=CC(=C1)F)[N+](=O)[O-] | C6H3F2NO2
reactant | piperidine | 39.4 mmol, 3.35 g | N1CCCCC1 | C5H11N
solvent | EtOH | 10 mL | CCO | C2H6O
product | 1-(5-Fluoro-2-nitro-phenyl)-piperidine | FC=1C=CC(=C(C1)N1CCCCC1)[N+](=O)[O-] | C11H13FN2O2
